1
C1 1 0 1e-6 5.0
R1 1 0 1e3
.TRAN 5e-3 1e-5 BE 1

* Run with: python -m simulator.circuit --netlist ./circuits/example_rc_ic.net --nodes 1
* Expected: Dacay from 5V to 0V