1
L1 1 0 1e-3 1.0
R1 1 0 10
.TRAN 5e-4 1e-6 BE 1


* Run with: python -m simulator.circuit --netlist ./circuits/example_rl_ic.net --nodes 1
* Expected: Rise from -10V to 0V