* Resistor fed by sinusoidal current source
1
R1 1 0 1000
I1 1 0 AC 0 1e-3 1000.0 0.0
.TRAN 0.01 1e-5 BE 1

* Run with: python3 -m simulator.circuit --netlist circuits/r_current_source_ac.net --nodes 1
