* Parallel RL excited by sinusoidal voltage
1
R1 1 0 10
L1 1 0 1e-3
V1 1 0 AC 0 1.0 60.0 0.0
.TRAN 0.02 1e-5 BE 1

* Run with: python3 -m simulator.circuit --netlist circuits/rl_sine_parallel.net --nodes 1


