* Parallel RLC excited by sinusoidal voltage
1
R1 1 0 100
L1 1 0 10e-3
C1 1 0 1e-6
V1 1 0 AC 0 1.0 1000.0 0.0
.TRAN 0.02 1e-5 BE 1

* Run with: python3 -m simulator.circuit --netlist circuits/rlc_sine_parallel.net --nodes 1