6
L1 1 0 0.001
L2 2 0 0.00025
L3 3 0 0.00011111111110000001
C1 1 0 1e-06
C2 2 0 1e-06
C3 3 0 1e-06
E1 4 0 3 0 1.0
E2 5 4 2 0 1.0
E3 6 5 1 0 1.0
.TRAN 0.003 3e-07 BE 1 UIC
