3
V2000 1 0 PULSE 0 5 0 0 0 0.0005 0.001 10.0
V2001 2 0 PULSE 0 5 0.0 0.0001 0.0001 0.0005 0.001 10.0
R1000 2 3 1000.0
R1001 1 3 1000.0
R1002 3 0 1000.0
.TRAN 0.01 1e-05 BE 1 UIC
